US08389717B2
(1-{4-Methoxy-6-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenylamino]-[1,3,5]triazin-2-yl}-piperidin-4-yl)-acetic acid
4-Piperidineacetic acid hydrochloride (381 mg, 2.12 mmol) was suspended in 10 ml of methanol. Triethylamine (0.9 ml, 6.45 mmol) was added, followed by (4-chloro-6-methoxy-[1,3,5]triazin-2-yl)-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-amine (700 mg, 2.02 mmol). The resulting mixture was stirred overnight at room temperature, concentrated and subjected to column chromatography on Si—NH2 (Isolute) using dichloromethane/methanol 95:5 v/v as an eluent. The material isolated was further purified by several triturations in water to give the final compound (792 mg, 87%) as a slightly brownish solid.

reactant | 4-Piperidineacetic acid hydrochloride | 2.12 mmol, 381 mg | Cl.N1CCC(CC1)CC(=O)O
reactant | Triethylamine | 6.45 mmol, 0.9 ml | C(C)N(CC)CC | C6H15N
reactant | (4-chloro-6-methoxy-[1,3,5]triazin-2-yl)-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-amine | 2.02 mmol, 700 mg | ClC1=NC(=NC(=N1)OC)NC1=CC(=C(C=C1)N1C=NC(=C1)C)OC | C15H15ClN6O2
solvent | methanol | 10 ml | CO | CH4O
product | (1-{4-Methoxy-6-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenylamino]-[1,3,5]triazin-2-yl}-piperidin-4-yl)-acetic acid | 792 mg, 87% | COC1=NC(=NC(=N1)NC1=CC(=C(C=C1)N1C=NC(=C1)C)OC)N1CCC(CC1)CC(=O)O | C22H27N7O4
